US08492582B2
2-Bromopyrimidine (73 mg), sodium carbonate (81 mg), water (0.3 mL), and bis(triphenylphosphine)palladium(II) dichloride (5.3 mg) were added to an ethylene glycol dimethyl ether (1 mL) solution of methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-carboxylate (0.10 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. After cooling the reaction mixture to room temperature, ethyl acetate and water were added thereto, and the insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 90-50% hexane/ethyl acetate] to obtain 30 mg of methyl 5-(pyrimidin-2-yl)pyridine-3-carboxylate as a yellow solid.

reactant | 2-Bromopyrimidine | 73 mg | BrC1=NC=CC=N1 | C4H3BrN2
reactant | sodium carbonate | 81 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-carboxylate | 0.10 g | CC1(OB(OC1(C)C)C=1C=C(C=NC1)C(=O)OC)C | C13H18BNO4
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 5.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 1 mL | COCCOC | C4H10O2
solvent | water | 0.3 mL | O | H2O
product | methyl 5-(pyrimidin-2-yl)pyridine-3-carboxylate | 30 mg | N1=C(N=CC=C1)C=1C=C(C=NC1)C(=O)OC | C11H9N3O2
